US04621094
A solution of n-butyllithium (60 mL, 1.55M in hexane) was added dropwise during 45 min to a stirred suspension of (2-dimethylaminoethyl)triphenylphosphonium bromide (38.1 g) in dry tetrahydrofuran (500 mL) under nitrogen. After an additional hour at room temperature, a solution of 2-bromo-6-(4-chlorobenzoyl)pyridine (27.3 g) in dry tetrahydrofuran (200 mL) was added dropwise. The mixture was stirred at room temperature for 20 min, then refluxed for 80 min, cooled to room temperature, and poured into water (500 mL). The ether layer was separated and the aqueous phase extracted with three additional portions of ether. The ether layers were combined, washed once with water, dried (MgSO4) and evaporated to give an oil which was triturated with hexane (500 mL). The hexane layer was decanted and concentrated to give a crude mixture of isomeric Z and E alkenes which were separated by chromatography (Waters Prep 500) on silica gel with 95:5/methylene chloride: methanol (E, 7.53 g; Z, 15.19 g). The individual isomers were then rechromatographed on silica gel with ethyl acetate to yield (Z)-2-bromo-6-(1-(4-chlorophenyl)-3-dimethylaminoallyl)pyridine, m.p. 56°-62°, and (E)-2-bromo-6-(1-(4-chlorophenyl-3-diomethylaminoallyl)pyridine, 69°-70°.

reactant | n-butyllithium | 1.55M, 60 mL | C(CCC)[Li]
reactant | (2-dimethylaminoethyl)triphenylphosphonium bromide | 38.1 g | [Br-].CN(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 2-bromo-6-(4-chlorobenzoyl)pyridine | 27.3 g | BrC1=NC(=CC=C1)C(C1=CC=C(C=C1)Cl)=O | C12H7BrClNO
reactant | water | 500 mL | O | H2O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (Z)-2-bromo-6-(1-(4-chlorophenyl)-3-dimethylaminoallyl)pyridine | BrC1=NC(=CC=C1)C(\C=C/N(C)C)C1=CC=C(C=C1)Cl | C16H16BrClN2
